* Extracted by KLayout with SG13G2 LVS runset on : 29/07/2026 09:30

.SUBCKT TXPA_77G_XTOR
Q$1 \$132 \$131 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$2 \$133 \$134 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$3 \$132 \$131 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$4 \$133 \$134 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$5 \$132 \$131 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$6 \$133 \$134 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$7 \$132 \$131 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$8 \$133 \$134 \$99 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$9 \$238 \$219 \$132 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$10 \$238 \$219 \$133 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$11 \$238 \$219 \$132 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$12 \$238 \$219 \$133 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$13 \$238 \$219 \$132 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$14 \$238 \$219 \$133 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$15 \$238 \$219 \$132 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
Q$16 \$238 \$219 \$133 \$1 npn13G2l we=70n le=1000n Nx=1 m=1
R$17 \$99 \$113 \$1 rppd w=3u l=10u ps=0u b=0 m=1
.ENDS TXPA_77G_XTOR
